US05296530
UV Cure From Outdoor Exposure--Effect of AAEM Level
A 100 g. portion of each polymer was neutralized to pH=9.5 with ammonia, an additional 0.52 g. of ammonia was added (one equivalent based on acetoacetate) to ensure complete enamine formation. To all three samples was added a premix consisting of 0.32 g. nonionic surfactant (Triton X-405; Union Carbide, 4.4 g. propylene glycol, 4.4 g. coalescent (Texanol) and 1.1 g. a 10% aqueous solution of urethane rheology modifier (QR-708; Rohm and Haas). The formulated mixture was equilibrated for 24 hours and then coatings were applied on glass plates to give 3-4 mil thick coatings. Films were placed outdoors in complete sunlight for 12 days. Film swell ratios in methyl ethyl ketone were obtained.

reactant | ammonia | N | H3N
reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | Texanol | CC(C)C(C(C)(C)COC(=O)C(C)C)O | C12H24O3
reactant | urethane | NC(=O)OCC | C3H7NO2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | AAEM | CC(=C)C(=O)OCCOC(=O)CC(=O)C | C10H14O5
